US04857527
To a mixture of 4-methyl-2-(3-nitrophenyl)-6-phenyl- 3-pyridinecarboxylic acid (1.4 g), methylene chloride (14 ml) and N,N-dimethylformamide (2.8 ml) was added a solution of thionyl chloride (0.33 ml) in methylene chloride (3 ml) at 7° C. under ice cooling. After stirring for2 hours at the same condition, a solution of 1-methylpiperazine (1.05 g) in methylene chloride (7 ml) was added thereto and the mixture was stirred for 2 hours at the same temperature. After adding Water (100 ml) and methylene chloride (50 ml) thereto, the mixture was adjusted to pH 8.5 with 10% aqueous sodium hydroxide. The organic layer was separated, washed successively with water and saturated brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of ethanol and diethyl ether to give 4-methyl-3-(4-methylpiperazin-1-ylcarbonyl)-2-(3-nitrophenyl)-6-phenylpyridine (0.97 g).

reactant | 4-methyl-2-(3-nitrophenyl)-6-phenyl- 3-pyridinecarboxylic acid | 1.4 g | CC1=C(C(=NC(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O | C19H14N2O4
reactant | thionyl chloride | 0.33 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-methylpiperazine | 1.05 g | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 2.8 ml | CN(C=O)C | C3H7NO
product | 4-methyl-3-(4-methylpiperazin-1-ylcarbonyl)-2-(3-nitrophenyl)-6-phenylpyridine | 0.97 g | CC1=C(C(=NC(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C | C24H24N4O3
